US09212190B2
A solution of tert-butyl N-(4-[[(3R)-3-[(2S)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (160 mg, 0.26 mmol, 1.00 equiv) and hydrogen chloride (conc.) (0.3 mL) in dichloromethane (10 mL) was stirred for 2 h at 0° C. in a water/ice bath. The pH value of the solution was adjusted to 8 with NH4OH. The resulting mixture was concentrated under vacuum. The crude product (150 mg) was purified by preparative HPLC under the following conditions (1#-Pre-HPLC-015(Waters)): Column, Xbridge C18, 19*150 mm, 5 μm; mobile phase: water (50 mM NH4HCO3) and CH3CN (10% CH3CN up to 21% in 15 min, up to 95% in 1.5 min, down to 10% in 1.5 min); UV detection at 254/220 nm. The product was freeze-dried to afford (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (48.3 mg, 47%) as a white solid. 1H NMR (400 MHz, CD3OD): δ 8.46 (s, 1H), 5.30 (m, 1H), 4.16 (m, 1H), 3.59 (m, 1H), 3.16-2.94 (m, 2H), 2.77-2.68 (m, 1H), 2.58-2.52 (m, 6H), 2.48-2.10 (m, 4H), 1.75-1.72 (m, 3H), 1.66-1.34 (m, 2H). MS: m/z=391 (M+H)+.

reactant | tert-butyl N-(4-[[(3R)-3-[(2S)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.26 mmol, 160 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)O[C@@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C(N)=O | C30H48N4O5SSi
reactant | hydrogen chloride | 0.3 mL | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | 48.3 mg, 47% | O[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC | C19H26N4O3S
